US04272437
A suspension of p-nitrobenzyl glyoxylate hydrate (6.57 g, 28.95 mmol; 1.15 eq) in benzene (500 ml) was heated at reflux with Dean-Stark trap for b 2 h. Evaporation of the solvent gave p-nitrobenzyl glyoxylate as an oil. A mixture of this oil and (4'R,3S,4R and 4'S,3R,4S) 3-(2',2'-dimethyl-1'-3'-dioxolan-4'-yl)-4-tritylthio-2-azetidinone (Isomer C) (11.2 g, 25.2 mmol) in THF (350 ml, distilled from LAH) was treated with triethylamine (289 mg, 2.86 mmol) at room temperature under N2 for 18 h (overnight). After evaporation of the solvent, the residue diluted with CH2Cl2 (200 ml) was washed successively with brine containing 1 N HCl (2.9 ml) sat. NaHCO3 and brine, dried (Na2SO4) and evaporated after addition of Et2O (30 ml) to give 17.2 g (26.3 mmol, crude yield 100%; purity 95.8%) of the title compound as a white foam: Rf 0.40 and 0.30 (benzene: Et2O=3:2). Each isomer was separated by hplc (SiO2, eluent, benzene: Et2O=3:2) and purified by crystallization from CH2Cl2 -Et2O. Isomer I: Rf 0.40 (benzene: Et2O=3:2); mp 153°-4° C.; 1Hmr (CDCl3) δ: 1.20 (6H, s, di-Me), 3.1 (2H, m, H-3 and OH), 3.5-4.2 (3H, m, H-4' and H-5'), 4.55 (1H, d, J=2Hz, H-4), 5.12 (1H, br, H-2"), 5.30 (2H, s, OCH2Ar) and 7.1-8.3 ppm (19H, m, aromatic Hs); ir (nujol) νmax : 3370 (OH), 1775 (β-lactam) and 1745 cm-1 (ester); Anal. calcd for C36H34N2O8S: C 66.04, H 5.23, N 4.28, found: C 65.85, H 5.64, N 4.1l. Isomer II: Rf 0.30 (benzene: Et2O=3:2); mp 164°-5° C.; 1Hmr (CDCl3) δ: 1.17 (6H, s, di-Me), ~3.2 (2H, m, H-3 and OH), 3.4-4.0 (3H, m, H-4' and H-5'), 4.57 (1H, d, J=2Hz, H-4), 5.23 (1H, br, -2"), 5.27 (2H, s, --OCH2Ar), and 7.1-8.3 ppm (19H, m, aromatic Hs); ir (nujol) νmax : 3340 (OH), 1765 (β-lactam) and 1740 cm- 1 (ester); Anal. calcd for C36H34N2O8S: C 66.04, H 5.23, N 4.28, S 4.90, found: C 66.01, H 5.34, N 4.28, S 4.75.

reactant | p-nitrobenzyl glyoxylate hydrate | 28.95 mmol, 6.57 g, 1.15 eq | O.C(C=O)(=O)OCC1=CC=C(C=C1)[N+](=O)[O-]
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | p-nitrobenzyl glyoxylate | C(C=O)(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C9H7NO5
